US04728645
A solution of 9.20 g of ethyl 5-(1-tritylimidazol-4-yl)-1-pent-2-enoate in 460 ml of anhydrous ethanol is hydrogenated with 1.88 g of 10% palladium on charcoal at atmospheric pressure for 20 min. The catalyst is removed by filtration through celite. Evaporation provides a solid which is recrystallised from hexane to yield 8.64 g of ethyl 5-(1-tritylimidazol-4-yl)-1-pentanoate, m.p. 84°-86°.

reactant | ethyl 5-(1-tritylimidazol-4-yl)-1-pent-2-enoate | 9.20 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)CCC=CC(=O)OCC | C29H28N2O2
solvent | ethanol | 460 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 1.88 g | [Pd] | Pd
product | ethyl 5-(1-tritylimidazol-4-yl)-1-pentanoate | 8.64 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)CCCCC(=O)OCC | C29H30N2O2
